US05977101
b) (±)-7-[[[(2-Imidazolyl)methyl]amino]carbonyl]-3-oxo-4-(2-phenylethyl)-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetic acid
LiOH (16 mg, 0.38 mmol) was added at RT to a solution of methyl (±)-7-[[[(2-imidazolyl)methyl]amino]carbonyl]-3-oxo-4-(2-phenylethyl)-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetate (98 mg, 0.21 mmol) in dioxane (3 mL) and H2O (3 mL). The reaction mixture was heated at 65° C. for 3 h then the organic solvent was removed in vacuo. The aqueous residue was acidified with 1M HCl solution (0.38 mL) to obtain a white solid which was filtered, dissolved in hot methanol, and precipitated with ether. The thus obtained white solid was collected to yield the title compound (72 mg, 78%). 1H NMR (DMSO-d6, 400 MHz) δ 2.59 (dd, J=16.2, 5.0 Hz, 1H), 2.77 (dd, J=7.7, 6.8 Hz, 2H), 2.92 (dd, J=16.5, 8.8 Hz, 1H), 3.63-3.75 (m, 2H), 3.79 (d, J=16.5 Hz, 1H), 4.61 (s, 2H), 5.13 (dd, J=8.8, 5.0 Hz, 1H), 5.45 (d, J=16.5 Hz, 1H), 6.57 (d, J=8.6 Hz, 1H), 7.07 (s, 2H), 7.10-7.19 (m, 5H), 7.41 (s, 1H), 7.54 (d, J=8.4 Hz, 1H). MS (ES) m/e 448 (M+H)+. Anal. Calcd. for C24H25N5O4.H2O: C, 61.92; H, 5.85; N, 15.04. Found: C, 61.69; H, 5.60; N, 14.86.

reactant | LiOH | 0.38 mmol, 16 mg | [Li+].[OH-]
reactant | methyl (±)-7-[[[(2-imidazolyl)methyl]amino]carbonyl]-3-oxo-4-(2-phenylethyl)-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetate | 0.21 mmol, 98 mg | N1C(=NC=C1)CNC(=O)C=1C=CC2=C(CN(C(C(N2)CC(=O)OC)=O)CCC2=CC=CC=C2)C1 | C25H27N5O4
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 3 mL | O | H2O
product | (±)-7-[[[(2-Imidazolyl)methyl]amino]carbonyl]-3-oxo-4-(2-phenylethyl)-2,3,4,5-tetrahydro-1H-1,4-benzodiazepine-2-acetic acid | 72 mg, 78% | N1C(=NC=C1)CNC(=O)C=1C=CC2=C(CN(C(C(N2)CC(=O)O)=O)CCC2=CC=CC=C2)C1 | C24H25N5O4
